US09302991B2
<Step-3>:(R)—N-(1-(6-(2,2-difluoropropoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 85% yield (0.95 g, colorless oil) from 1-(6-(2,2-difluoropropoxy)pyridin-3-yl)ethanone (0.75 g, 3.49 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(6-(2,2-difluoropropoxy)pyridin-3-yl)ethanone | 3.49 mmol, 0.75 g | FC(COC1=CC=C(C=N1)C(C)=O)(C)F | C10H11F2NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(6-(2,2-difluoropropoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 85% yield | FC(COC1=CC=C(C=N1)C(C)N[S@](=O)C(C)(C)C)(C)F | C14H22F2N2O2S
